US08044206B2
264 mg of sodium hydride (55%) was added to a solution of 2.65 g of (2-chloro-6-methylbenzyl)(triphenyl)phosphonium chloride in 20 ml of dimethylsulfoxide, followed by stirring at ambient temperature for 1 hour. After 994 mg of tert-butyl 4-formylpiperidine-1-carboxylate was added to the reaction mixture, the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was poured into saturated aqueous ammonium chloride, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated and the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 645 mg of tert-butyl 4-[(E)-2-(2-chloro-6-methylphenyl)vinyl]piperidine-1-carboxylate as an oil.

reactant | sodium hydride | 264 mg | [H-].[Na+]
reactant | (2-chloro-6-methylbenzyl)(triphenyl)phosphonium chloride | 2.65 g | [Cl-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC=C1)C
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 994 mg | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | tert-butyl 4-[(E)-2-(2-chloro-6-methylphenyl)vinyl]piperidine-1-carboxylate | 645 mg | ClC1=C(C(=CC=C1)C)/C=C/C1CCN(CC1)C(=O)OC(C)(C)C | C19H26ClNO2
